US05633374
(R)-N"-Cyano-N-(5-pyrimidyl)-N'-(1-phenyl)ethylguanidine
A stirred mixture of N'-cyano-N-(5-pyrimidyl)-O-phenylisourea (0.5 g, 0.00209 mol), (R)-α-methylbenzylamine (1.0 mL) and DMF (4 mL) was kept, under nitrogen, at ambient temperature for 18 hours and concentrated in vacuo. The residue was allowed to crystallize from EtOAc-tert-butyl methyl ether. The solid was triturated with Et2O and tert-butyl methyl ether and crystallized from EtOAc to give product: NMR (CDCl3) δ1.61 (d, 3H), 4.92 (m, 1H), 6.05 (broad s, 1H), 7.38 (m, 6H), 8.56 (s, 2H), 8.97 (s, 1H); IR (Nujol) 3262, 3109, 3054, 2174, 1600, 1570 cm-1 ; MS m/z (relative intensity) 266 (M+, 100), 251 (24.3), 161 (4.0), 146 (33.0), 120 (40.5), 105 (100).

reactant | N'-cyano-N-(5-pyrimidyl)-O-phenylisourea | 0.00209 mol, 0.5 g | C(#N)N=C(NC=1C=NC=NC1)OC1=CC=CC=C1 | C12H9N5O
reactant | (R)-α-methylbenzylamine | 1.0 mL | C[C@H](C1=CC=CC=C1)N | C8H11N
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | (R)-N"-Cyano-N-(5-pyrimidyl)-N'-(1-phenyl)ethylguanidine | C(#N)N=C(NC=1C=NC=NC1)N[C@H](C)C1=CC=CC=C1 | C14H14N6
